US04341899
In the commercial process for producing herbicidal bifenox, i.e., methyl 2-nitro-5-(2'4'-dichlorophenoxy)-benzoate, preparation of a reaction precursor involves the chlorination of benzoyl chloride to obtain m-chlorobenzoyl chloride. This material is then reacted with methanol to produce the corresponding methyl chlorobenzoate.

reactant | bifenox | COC(=O)C=1C=C(C=CC1[N+](=O)[O-])OC=2C=CC(=CC2Cl)Cl | C14H9Cl2NO5
reactant | methyl 2-nitro-5-(2'4'-dichlorophenoxy)-benzoate | [N+](=O)([O-])C1=C(C(=O)OC)C=C(C=C1)OC1=C(C=C(C=C1)Cl)Cl | C14H9Cl2NO5
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | m-chlorobenzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
